US04374137
6-Chloro-2'-propionylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
To a cooled solution of 6-chlorospiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (6.0 g) and triethylamine (2.4 g) in dichloromethane (50 ml) is slowly added dropwise propionyl chloride (2.3 g) in dichloromethane (20 ml). The reaction mixture is stirred for 18 hours at ambient temperature, washed with water (2x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is removed to yield an oil which, upon trituration with hexane/ether, yields product as a white solid (6.6 g, 92%). An analytical sample is recrystallized from hexane to yield a white solid, mp 106°-107°.

reactant | 6-chlorospiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 6.0 g | ClC1=CC2=C(CC3(CNCC4=CC=CC=C34)O2)C=C1 | C16H14ClNO
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 2.3 g | C(CC)(=O)Cl | C3H5ClO
reactant | hexane ether | CCCCCC.CCOCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-Chloro-2'-propionylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 6.6 g, 92% | ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C(CC)=O)O2)C=C1 | C19H18ClNO2
